US08183246B2
N-(4,4-Diethoxybutyl)-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine-4-amine
Stir 600 mg (1.78 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine, 344.7 mg (2.14 mmol) 4-aminobutyraldehyde-diethylacetal and 0.465 ml (2.67 mmol) DIEA in 5 ml DMF overnight at 80° C. After cooling, purify the mixture directly by preparative RP-HPLC (gradient acetonitrile/water). 746 mg (90.7% of theor.) of the target compound is obtained.

reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 1.78 mmol, 600 mg | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | 4-aminobutyraldehyde-diethylacetal | 2.14 mmol, 344.7 mg | C(C)OC(CCCN)OCC | C8H19NO2
reactant | DIEA | 2.67 mmol, 0.465 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(4,4-Diethoxybutyl)-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine-4-amine | C(C)OC(CCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)OCC | C27H31N3O4
